US09079889B2
Method 4 was followed using 2-bromo-3-fluoro-6-methylpyridine (1.0 equiv.) and 2,6-difluoro-3-methoxyphenylboronic acid (2.0 equiv.) to give 2-(2,6-difluoro-3-methoxyphenyl)-3-fluoro-6-methylpyridine in 60% yield. LC/MS=254.1 (M+H), Rt=0.85 min.

reactant | 2-bromo-3-fluoro-6-methylpyridine | 1.0 equiv. | BrC1=NC(=CC=C1F)C | C6H5BrFN
reactant | 2,6-difluoro-3-methoxyphenylboronic acid | 2.0 equiv. | FC1=C(C(=CC=C1OC)F)B(O)O | C7H7BF2O3
product | 2-(2,6-difluoro-3-methoxyphenyl)-3-fluoro-6-methylpyridine | 60% yield | FC1=C(C(=CC=C1OC)F)C1=NC(=CC=C1F)C | C13H10F3NO
